US07098226B2
1-[2-(1-Adamantyl)ethyl]-1-hydroxy-3-[3-(4-pyridyl)propyl]urea (Compound No. 12-1)
2 N Hydrochloric acid (4.0 ml) was added to a solution of 1-[2-(1-adamantyl)ethyl]-1-benzyloxy-3-[3-(4-pyridyl)propyl]urea (Compound No. 1-28) (438 mg, 0.978 mmol) in methanol (9.78 ml), and a nitrogen gas was bubbled through the mixture. To the mixture was added 10% palladium on carbon (43 mg), and the whole was stirred under hydrogen at 1 atm for three days. The palladium on carbon was filtered out, the filtrate was concentrated under reduced pressure, and the concentrate was diluted with diethyl ether (30 ml). The whole was washed with a saturated aqueous sodium hydrogencarbonate solution (30 ml) and a saturated aqueous sodium chloride solution (30 ml) successively, and the organic layer was dried over magnesium sulfate. The solvent was evaporated under reduced pressure, and the residue was purified by silica gel column chromatography to give 119 mg (34%) of the titled compound.

reactant | Hydrochloric acid | 2 N, 4.0 ml | Cl | ClH
reactant | 1-[2-(1-adamantyl)ethyl]-1-benzyloxy-3-[3-(4-pyridyl)propyl]urea | C12(CC3CC(CC(C1)C3)C2)CCN(C(=O)NCCCC2=CC=NC=C2)OCC2=CC=CC=C2 | C28H37N3O2
product | 1-[2-(1-Adamantyl)ethyl]-1-hydroxy-3-[3-(4-pyridyl)propyl]urea | 119 mg, 34% | C12(CC3CC(CC(C1)C3)C2)CCN(C(=O)NCCCC2=CC=NC=C2)O | C21H31N3O2
